US05981776
Methyl 4-iodo-3-[2-(3-methyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propenyloxy]benzoate
Sodium methoxide (0.62 ml, 3.17 mmol) is added over 8 hours to a mixture of methyl 3-(3-methyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl-methyloxy)-4-iodobenzoate (1.6 g, 3.1 mmol) and methyltriphenylphosphine bromide (1.51 g, 4.2 mmol) in THF (15 ml).

reactant | Sodium methoxide | 3.17 mmol, 0.62 ml | C[O-].[Na+]
reactant | methyl 3-(3-methyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl-methyloxy)-4-iodobenzoate | 3.1 mmol, 1.6 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(=O)COC=1C=C(C(=O)OC)C=CC1I | C25H29IO4
reactant | methyltriphenylphosphine bromide | 4.2 mmol, 1.51 g | [Br-].CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | Methyl 4-iodo-3-[2-(3-methyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propenyloxy]benzoate | IC1=C(C=C(C(=O)OC)C=C1)OC=C(C)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C26H31IO3
